US07037909B2
Diethyl-{2-[3-(4-fluoro-benzyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-6-yl]-ethyl}-amine hydrochloride
0.60 mmol of 5-(N,N-diethylamino-2-ethyl)-4,7-dimethyl-1H-indole-2,3-dione hydrochloride (186.5 mg) and 0.70 mmol of (4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine (145 mg) in 1.5 mL of ethylene glycol was stirred at 125° C. for 1 day. The mixture was cooled to room temperature, diluted with water (5 mL), and neat diethylamine 0.5 mL was added. Stirred for 3 hours, the precipitate was collected by filtration, washed with water and dried on highvac. The obtained free base was suspended in water (10 mL), 2M HCl 0.5 mL was added, heated to boil, sonicated briefly while hot and then allowed to crystallize in a refrigerator (+5° C.) overnight. The precipitate was collected by filtration, washed with ice-cold water (2×1 mL) and dried on high vacuum.

reactant | 5-(N,N-diethylamino-2-ethyl)-4,7-dimethyl-1H-indole-2,3-dione hydrochloride | 0.60 mmol, 186.5 mg | Cl.C(C)N(CC)C(C)C=1C(=C2C(C(NC2=C(C1)C)=O)=O)C
reactant | (4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine | 0.70 mmol, 145 mg | FC1=CC=C(CC=2N(C(=NN2)N)N)C=C1 | C9H10FN5
solvent | ethylene glycol | 1.5 mL | C(CO)O | C2H6O2
solvent | water | 5 mL | O | H2O
solvent | diethylamine | 0.5 mL | C(C)NCC | C4H11N
product | Diethyl-{2-[3-(4-fluoro-benzyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-6-yl]-ethyl}-amine hydrochloride | Cl.C(C)N(CCC=1C(=C2C3=NN4C(N=C3NC2=C(C1)C)=NN=C4CC4=CC=C(C=C4)F)C)CC | InChI=1S/C25H28FN7.ClH/c1-5-32(6-2)12-11-18-13-15(3)22-21(16(18)4)23-24(27-22)28-25-30-29-20(33(25)31-23)14-17-7-9-19(26)10-8-17;/h7-10,13H,5-6,11-12,14H2,1-4H3,(H,27,28,30);1H
